US09359337B2
2-[Ethyl-(4-fluoro-benzenesulfonyl)-amino]-N-[4-(4-trifluoromethyl-phenyl)-morpholin-2-ylmethyl]-acetamide
(4-(4-(Trifluoromethyl)phenyl)morpholin-2-yl)methylamine hydrochloride (99 mg, 0.34 mmol), [ethyl-(4-fluoro-benzenesulfonyl)-amino]-acetic acid (87.2 mg, 0.34 mmol), BOP reagent (148 mg, 0.34 mmol) and TEA (0.2 mL) were combined in 5 mL of dichloromethane. The mixture was stirred overnight and solvents were evaporated. The residue was extracted with ethyl acetate and water. The organic layer was washed with sodium bicarbonate solution and dried. Solvents were evaporated and the residue was purified by ISCO flash column chromatography (11 g silica gel, ethyl acetate in hexanes 0% to 60%) to give the desired compound as a white solid (125 mg, 74%). [MH]+=504.0.

reactant | (4-(4-(Trifluoromethyl)phenyl)morpholin-2-yl)methylamine hydrochloride | 0.34 mmol, 99 mg | Cl.FC(C1=CC=C(C=C1)N1CC(OCC1)CN)(F)F
reactant | [ethyl-(4-fluoro-benzenesulfonyl)-amino]-acetic acid | 0.34 mmol, 87.2 mg | C(C)N(S(=O)(=O)C1=CC=C(C=C1)F)CC(=O)O | C10H12FNO4S
reactant | BOP reagent | 0.34 mmol, 148 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[Ethyl-(4-fluoro-benzenesulfonyl)-amino]-N-[4-(4-trifluoromethyl-phenyl)-morpholin-2-ylmethyl]-acetamide | 125 mg, 74% | C(C)N(CC(=O)NCC1CN(CCO1)C1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)C1=CC=C(C=C1)F | C22H25F4N3O4S
